US04597902
3-Ethoxy-N-[2-(phenylsulfonyl)ethyl]-1-propanamine hydrochloride
A mixture of 51.4 g (0.253 mole) of 2-chloroethyl phenyl sulfone, 50.2 g (0.417 mole) of 3-ethoxy-1-propanamine, and 33.0 g (0.327 mole) of triethylamine in 400 ml of acetonitrile was stirred at room temperature for 20 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride phase was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in methanol, an excess of ethereal hydrogen chloride was added and ether was added. A precipitate was collected to give 49.2 g (63.2%) of white crystalline solid, m.p. 169°-170° C.

reactant | 2-chloroethyl phenyl sulfone | 0.253 mole, 51.4 g | C1(=CC=CC=C1)S(=O)(=O)CCCl | C8H9ClO2S
reactant | 3-ethoxy-1-propanamine | 0.417 mole, 50.2 g | C(C)OCCCN | C5H13NO
reactant | triethylamine | 0.327 mole, 33.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 3-Ethoxy-N-[2-(phenylsulfonyl)ethyl]-1-propanamine hydrochloride | 49.2 g, 63.2% | Cl.C(C)OCCCNCCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C13H21NO3S.ClH/c1-2-17-11-6-9-14-10-12-18(15,16)13-7-4-3-5-8-13;/h3-5,7-8,14H,2,6,9-12H2,1H3;1H
